US06143743
Part I. A solution of the iodide compound from Part H (7.00 g, 26.1 mmol) in anhydrous tetrahydrofuran (50 mL) was cooled to 90° C., and treated with a hexane solution of n-butyllithium (16.5 mL, 1.6 M, 26.4 mmol). After 15 minutes, the solution was treated with triisopropylborate (6.10 mL, 26.4 mmol) and was allowed to warm to ambient temperature over 6 hours. The resulting mixture was treated with 6 N aqueous HCl (5 mL) and water (5 mL), which was stirred for 1 hour, then poured into water (100 mL) and extracted with ethyl acetate (2×100 mL). The extracts were washed in sequence with 1 N aqueous sodium bisulfite and brine (80 mL each), combined, dried over sodium sulfate, filtered and evaporated. The residual solid was triturated with 1:1 ether-hexane, collected by filtration and dried under vacuum to afford pure product, 2-chloro-4-methoxybenzeneboronic acid (3.05 g, 16.4 mmol, 63%). m.p. 191-195° C.

reactant | iodide | [I-]
reactant | n-butyllithium | 26.4 mmol, 1.6 M, 16.5 mL | C(CCC)[Li]
reactant | triisopropylborate | 26.4 mmol, 6.10 mL | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | HCl | 6 N, 5 mL | Cl | ClH
reactant | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | water | 100 mL | O | H2O
solvent | water | 5 mL | O | H2O
solvent | hexane | CCCCCC | C6H14
product | 2-chloro-4-methoxybenzeneboronic acid | 16.4 mmol, 3.05 g, 63% | ClC1=C(C=CC(=C1)OC)B(O)O | C7H8BClO3
